simulator lang=spectre
global 0

ahdl_include "../submission/smooth_comparator_tanh.va"

Vin (sigin 0) vsource type=pwl wave=[0 0.2 10n 0.2 10.1n 0.45 20n 0.45 20.1n 0.7 30n 0.7 30.1n 0.35 45n 0.35]
Vref (sigref 0) vsource dc=0.45
XDUT (sigin sigref sigout) smooth_comparator_tanh high=0.9 low=0 offset=0 comp_slope=20

tran tran stop=40n maxstep=25p
save sigin sigout sigref
