simulator lang=spectre
global 0

ahdl_include "../submission/sum5_signed_sar_weight.va"

Vd1 (d1 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 1.1 2.0n 1.1 2.05n 0 3.0n 0 3.05n 1.1 4.0n 1.1]
Vd2 (d2 0) vsource type=pwl wave=[0 0 3.0n 0 3.05n 1.1 4.0n 1.1]
Vd3 (d3 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 1.1 2.0n 1.1 2.05n 0 3.0n 0 3.05n 1.1 4.0n 1.1]
Vd4 (d4 0) vsource type=pwl wave=[0 0 2.0n 0 2.05n 1.1 4.0n 1.1]
Vd5 (d5 0) vsource type=pwl wave=[0 0 1.0n 0 1.05n 1.1 4.0n 1.1]
XDUT (d1 d2 d3 d4 d5 out) sum5_signed_sar_weight

tran tran stop=3.8n maxstep=5p
save d1 d2 d3 d4 d5 out
