simulator lang=spectre
global 0

ahdl_include "./dut/trim_ctrl_4bit.va"

Vain (ain 0) vsource type=pwl wave=[0 0.49 0.95n 0.49 1n 0.50 1.95n 0.50 2n 3.49 2.95n 3.49 3n 3.50 3.95n 3.50 4n 15.49 4.95n 15.49 5n 15.50 5.95n 15.50 6n 16.49 6.95n 16.49 7n 16.50 7.95n 16.50 8n 30.60 9n 30.60]
XDUT (ain dout0 dout1 dout2 dout3) trim_ctrl_4bit

tran tran stop=9n maxstep=10p
save ain dout0 dout1 dout2 dout3
