simulator lang=spectre
global 0

ahdl_include "../submission/variable_gain_differential_amplifier.va"

Vp (sigin_p 0) vsource type=pwl wave=[0 0.25 10n 0.25 10.1n 0.55 20n 0.55 20.1n 0.75 30n 0.75 30.1n 0.15 45n 0.15]
Vn (sigin_n 0) vsource dc=0.45
Vcp (sigctrl_p 0) vsource type=pwl wave=[0 0.95 10n 0.95 10.1n 1.45 20n 1.45 20.1n 1.65 30n 1.65 30.1n 1.45 45n 1.45]
Vcn (sigctrl_n 0) vsource dc=0.45
XDUT (sigin_p sigin_n sigctrl_p sigctrl_n sigout) variable_gain_differential_amplifier

tran tran stop=40n maxstep=25p
save sigctrl_n sigctrl_p sigin_n sigin_p sigout
