simulator lang=spectre
global 0

ahdl_include "dut_buggy.va"

Vsig (sig 0) vsource type=pwl wave=[0 0 30n 0 31n 0.9 35n 0.9 36n 0 70n 0 71n 0.9 130n 0.9]
Vrst (rst_n 0) vsource type=pwl wave=[0 0 15n 0 16n 0.9 140n 0.9]

XDUT (sig rst_n out) debounce_latch

tran tran stop=140n maxstep=500p
save sig rst_n out
